* sampling-frontend acquisition-window settling (issue #121) -- corner=tt temp=125C
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
.temp 125

Vdd VDD 0 dc 1.8
Vvcm VCM 0 dc 0.9
Vinp VINP 0 pwl(0n 0.2 130n 0.2 130.2n 1.6 330n 1.6)
Vinn VINN 0 pwl(0n 1.6 130n 1.6 130.2n 0.2 330n 0.2)
Vsample SAMPLE 0 pwl(0n 0 10n 0 10.2n 1.8 110n 1.8 110.2n 0 160n 0 160.2n 1.8 310n 1.8 310.2n 0 330n 0)

* sampling_frontend_dut.spice -- regenerated netlist FRAGMENT (devices only)
* for design/sampling_frontend.sch (issue #52). NOT hand-edited: regenerate
* with, from the repo root:
*
*   source sim/env.sh
*   xschem -x -n -s -q --rcfile sim/xschemrc -o /tmp/xschem_out design/sampling_frontend.sch
*   grep -v '^\*\*' /tmp/xschem_out/sampling_frontend.spice | grep -v '^\.end$' \
*     > sim/sampling-frontend/testbench/sampling_frontend_dut.spice
*
* Every device is sky130_fd_pr__{n,p}fet_01v8 or sky130_fd_pr__cap_mim_m3_1
* (ratified 1.8V core flavor + MiM cap, DR-001) -- grep for g5v0d10v5 below
* to confirm zero matches (the schematic's own AC check).
XMsw_p VINP G_P TOP_P GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XSa_p BOOST_P SAMPLE VDD BOOST_P sky130_fd_pr__pfet_01v8 L=0.5 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XSb_p BSBOT_P SAMPLEB GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XScn_p BSBOT_P SAMPLE VINP GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XScp_p BSBOT_P SAMPLEB VINP VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XSd_p G_P SAMPLEB GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XSe_p G_P SAMPLEB BOOST_P BOOST_P sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XCmswn_p BPREF_P SAMPLE VCM GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XCmswp_p BPREF_P SAMPLEB VCM VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XCboot_p BOOST_P BSBOT_P sky130_fd_pr__cap_mim_m3_1 W=9.8 L=9.8 MF=1 m=1
XCsamp_p TOP_P BPREF_P sky130_fd_pr__cap_mim_m3_1 W=46.9 L=46.9 MF=1 m=1
XMsw_n VINN G_N TOP_N GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XSa_n BOOST_N SAMPLE VDD BOOST_N sky130_fd_pr__pfet_01v8 L=0.5 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XSb_n BSBOT_N SAMPLEB GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XScn_n BSBOT_N SAMPLE VINN GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
XScp_n BSBOT_N SAMPLEB VINN VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XSd_n G_N SAMPLEB GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1 m=1
XSe_n G_N SAMPLEB BOOST_N BOOST_N sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XCmswn_n BPREF_N SAMPLE VCM GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XCmswp_n BPREF_N SAMPLEB VCM VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0
+ sb=0 sd=0 mult=1 m=1
XCboot_n BOOST_N BSBOT_N sky130_fd_pr__cap_mim_m3_1 W=9.8 L=9.8 MF=1 m=1
XCsamp_n TOP_N BPREF_N sky130_fd_pr__cap_mim_m3_1 W=46.9 L=46.9 MF=1 m=1
XInvp SAMPLEB SAMPLE VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XInvn SAMPLEB SAMPLE GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0
+ sd=0 mult=1 m=1
.GLOBAL GND


.control
tran 0.02n 330.0n
meas tran t_settle_p_50 TRIG AT=160.1n TARG V(TOP_P) VAL=0.9 TD=160.1n CROSS=1
meas tran t_settle_p_90 TRIG AT=160.1n TARG V(TOP_P) VAL=1.46 TD=160.1n CROSS=1
meas tran budget_p find v(TOP_P) at=243.43333333333334n
meas tran confirm_p find v(TOP_P) at=305.0n
meas tran t_settle_n_50 TRIG AT=160.1n TARG V(TOP_N) VAL=0.9 TD=160.1n CROSS=1
meas tran t_settle_n_90 TRIG AT=160.1n TARG V(TOP_N) VAL=0.34 TD=160.1n CROSS=1
meas tran budget_n find v(TOP_N) at=243.43333333333334n
meas tran confirm_n find v(TOP_N) at=305.0n
.endc
.end
